US09428450B2
Into a 1 L flask, equipped with a refluxing condenser, is added 29.8 g (0.20 mole) of triethanolamine, 300 mL of dichloroethane, then 51.0 mL of thionyl chloride. The mixture is heated to reflux for 4 hrs. The reaction is quenched by adding 20 mL of methanol. Removal of solvent gives a white crystalline mass of tris(2-chloroethylamine) hydrochloride in quantitative yield.

reactant | triethanolamine | 0.20 mole, 29.8 g | N(CCO)(CCO)CCO | C6H15NO3
reactant | thionyl chloride | 51.0 mL | S(=O)(Cl)Cl | Cl2OS
solvent | dichloroethane | 300 mL | ClC(C)Cl | C2H4Cl2
product | tris(2-chloroethylamine) hydrochloride | quantitative yield | Cl.ClCCN.ClCCN.ClCCN | InChI=1S/3C2H6ClN.ClH/c3*3-1-2-4;/h3*1-2,4H2;1H
